US04511573
Methanesulfonyl chloride (2.50 ml) is added dropwise to a solution of 7.5 g 3-(2-hydroxyethyl)-2-(3-pyridyl)-indole and 10.0 ml of triethylamine in 150 ml of methylene chloride at -10°. This mixture is stirred at room temperature for 0.5 hour and poured into 600 ml of ice water. The resulting slurry is extracted with methylene chloride and the extract is washed with saturated sodium bicarbonate solution, dried over MgSO4 and evaporated in vacuo to give 3-(2-methylsulfonyloxyethyl)-2-(3-pyridyl)-indole.

reactant | Methanesulfonyl chloride | 2.50 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | 3-(2-hydroxyethyl)-2-(3-pyridyl)-indole | 7.5 g | OCCC1=C(NC2=CC=CC=C12)C=1C=NC=CC1 | C15H14N2O
reactant | triethylamine | 10.0 ml | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 150 ml | C(Cl)Cl | CH2Cl2
product | 3-(2-methylsulfonyloxyethyl)-2-(3-pyridyl)-indole | CS(=O)(=O)OCCC1=C(NC2=CC=CC=C12)C=1C=NC=CC1 | C16H16N2O3S
